US07955664B2
1.2. Diethyl 2-(6-fluoro-3-propylchroman-7-yl)malonate
17.0 g (52.2 mmol) of anhydrous caesium carbonate, 700 mg (3.67 mmol) of copper(I) iodide and 700 mg (4.11 mmol) of o-phenylphenol are initially introduced under dry nitrogen, a solution of 11.4 g (33.5 mmol) of 6-fluoro-7-iodo-3-propylchroman and 16.0 g (100 mmol) of diethyl malonate in 150 ml of THF is added, and the mixture is heated under reflux overnight. MTB ether is subsequently added to the batch, which is washed with dil. hydrochloric acid and dried over sodium sulfate. The solvent is removed in vacuo, and the crude product is purified by chromatography on silica gel with heptane/ethyl acetate (4:1). The product fraction (Rf=0.55) is reacted without further purification.

reactant | caesium carbonate | 52.2 mmol, 17.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | o-phenylphenol | 4.11 mmol, 700 mg | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | 6-fluoro-7-iodo-3-propylchroman | 33.5 mmol, 11.4 g | FC=1C=C2CC(COC2=CC1I)CCC | C12H14FIO
reactant | diethyl malonate | 100 mmol, 16.0 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | copper(I) iodide | 3.67 mmol, 700 mg | [Cu]I
solvent | ether | CCOCC | C4H10O
product | Diethyl 2-(6-fluoro-3-propylchroman-7-yl)malonate | FC=1C=C2CC(COC2=CC1C(C(=O)OCC)C(=O)OCC)CCC | C19H25FO5
